US07750154B2
N-cyclopropyl-4-methyl-3-(4-oxoquinazolin-3(4H)-yl)benzamide (AZ12228137)
Triethylorthoformate (0.15 ml) was added to a stirred mixture of 3-[(2-aminobenzoyl)amino]-N-cyclopropyl-4-methylbenzamide (0.093 g) and glacial acetic acid (0.017 ml) in ethanol (10 ml). The mixture was heated to 80° C. and stirred for 16 hours. The reaction mixture was evaporated, dissolved in ethyl acetate (50 ml) and washed with a saturated NaHCO3 solution (100 ml). The organic phase was dried over magnesium sulphate, filtered then concentrated in vacuo onto silica gel (0.1 g). The residue was purified by column chromatography (isolute silica 20 g column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using a gradient of 10% iso-propanol/iso-hexane through to 50% iso-propanol/iso-hexane to give the title compound as a white solid (0.062 g); NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.68 (m, 2H), 2.14 (s, 3H), 2.84 (m, 1H), 7.52 (d, 1H), 7.62 (t, 1H), 7.78 (d, 1H), 7.84 (d, 1H), 7.89 (m, 2H), 8.21 (m, 1H), 8.30 (s, 1H), 8.41 (d, 1H); Mass Spectrum: M+H+ 320.

reactant | Triethylorthoformate | 0.15 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | 3-[(2-aminobenzoyl)amino]-N-cyclopropyl-4-methylbenzamide | 0.093 g | NC1=C(C(=O)NC=2C=C(C(=O)NC3CC3)C=CC2C)C=CC=C1 | C18H19N3O2
reactant | acetic acid | 0.017 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-cyclopropyl-4-methyl-3-(4-oxoquinazolin-3(4H)-yl)benzamide | 0.062 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=CC=C2C1=O)=O | C19H17N3O2
